US06002008
N-{4-[(3-Chloro-4-thiophenoxyphenyl)amino]-3-cyano-6quinolinyl}-2-butynamide
Dissolved 314 mg (3.72 mmol) 2-butynoic acid in 40 ml THF under N2. Chilled to 0° and added 409 μl (3.72 mmol) N-methylmorpholine and 485 μl (3.72 mmol) isobutyl chloroformate and stirred for 10 minutes. Added dropwise a solution that was prepared by dissolving 1.00 g (2.48 mmol) 6-amino-4-[(3-chloro-4-thiophenoxyphenyl)amino]-3-quinolinecarbonitrile in 2.0 ml hot DMF and adding 20 ml THF. Stirred mixture for minutes at 0° and 25° C. overnight. To drive reaction to completion, added 1.24 mmol of the mixed anhydride (104 mg acid, 136 μl NMM, and 161 μl isobutyl chloroformate) in 15 ml THF. Stirred overnight. Stripped solvent, dried in vacuo. Recrystallized from ethyl acetate, dried in vacuo, giving 284 mg of yellow-orange solid: mass spectrum (electrospray m/e): M+H=469.2, 471.2.

reactant | 2-butynoic acid | 3.72 mmol, 314 mg | C(C#CC)(=O)O | C4H4O2
reactant | N-methylmorpholine | 3.72 mmol, 409 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 3.72 mmol, 485 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-chloro-4-thiophenoxyphenyl)amino]-3-quinolinecarbonitrile | 2.48 mmol, 1.00 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)SC1=CC=CC=C1)Cl | C22H15ClN4S
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-{4-[(3-Chloro-4-thiophenoxyphenyl)amino]-3-cyano-6quinolinyl}-2-butynamide | 284 mg | ClC=1C=C(C=CC1SC1=CC=CC=C1)NC1=C(C=NC2=CC=C(C=C12)NC(C#CC)=O)C#N | C26H17ClN4OS
